*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXJ2R5ARA821MF80G
*//   Date        : 2024/5/7
*//   Version     : 1.0
*//   Simulator   : P-Spice
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXJ2R5ARA821MF80G_20deg-C 1 2

C1 4 2 6.66e-04
C2 5 2 8.12e-05
C3 6 2 2.82e-05
R1 3 4 4.93e-03
R2 4 5 3.42e-02
R3 5 6 1.50e+00
L1 1 3 2.70e-09

.ENDS
*$